US07148250B2
A solution of 1-(3-methoxycarbonyl-phenyl)-3-[2-(toluene-4-sulfonyloxy)-ethyl]-1H-indole-2-carboxylic acid methyl ester (0.37 g, 0.73 mmol) and potassium thioacetate (0.092 g, 0.8 mmol) in DMF (5 mL) was stirred at room temperature overnight. The reaction mixture was diluted with water and extracted with EtOAc. The organic extract was washed with saturated NaHCO3, dried over Na2SO4, and concentrated to give 0.32 g of 3-(2-acetylsulfanyl-ethyl)-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid methyl ester as a yellow oil (100% crude yield): 1H NMR (CDCl3, 300 MHz) δ 2.36 (s, 3H), 3.20 (q, J=6.87 Hz, 2H), 3.40 (q, J=6.87 Hz, 2H), 3.74 (s, 3H), 3.91 (s, 3H), 7.01 (d, J=7.82 Hz, 1H), 7.20–7.31 (m, 3H), 7.44 (d, J=8.02 Hz, 1H), 7.48–7.52 (m, 1H), 7.59(t, J=7.82 Hz, 1H), 7.88 (d, J=7.82 Hz, 1H), 7.97(t, J=1.53 Hz, 1H); 8.13 (dt, J=7.82, 1.34 Hz, 1H).

reactant | 1-(3-methoxycarbonyl-phenyl)-3-[2-(toluene-4-sulfonyloxy)-ethyl]-1H-indole-2-carboxylic acid methyl ester | 0.73 mmol, 0.37 g | COC(=O)C=1N(C2=CC=CC=C2C1CCOS(=O)(=O)C1=CC=C(C=C1)C)C1=CC(=CC=C1)C(=O)OC | C27H25NO7S
reactant | potassium thioacetate | 0.8 mmol, 0.092 g | C(C)(=S)[O-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(2-acetylsulfanyl-ethyl)-1-(3-methoxycarbonyl-phenyl)-1H-indole-2-carboxylic acid methyl ester | 0.32 g | COC(=O)C=1N(C2=CC=CC=C2C1CCSC(C)=O)C1=CC(=CC=C1)C(=O)OC | C22H21NO5S
